US09376452B2
tert-Butyl 2-(3-benzoylureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate
tert-Butyl 2-amino-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (0.116 g, 0.41 mmol, 1 equiv.) and PhCONCO (0.06 mL, 0.5 mmol, 1.2 equiv.) were dissolved in THF (2 mL) and stirred at 50° C. for 16 h. The solvent was removed and the product was purified by preparatory HPLC (0-40% EtOAC:hexanes). The product was isolated as a white solid (0.105 g, 59% yield). 1H NMR (400 MHz, CDCl3) δ 13.26 (s, 1H), 9.81 (s, 1H), 8.13 (d, J=7.0 Hz, 2H), 7.65 (d, J=6.7 Hz, 3H), 4.72 (s, 2H), 2.75 (s, 2H), 1.64 (s, 9H), 1.32 (s, 6H).

reactant | tert-Butyl 2-amino-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.41 mmol, 0.116 g, 1 equiv. | NC1=C(C2=C(COC(C2)(C)C)S1)C(=O)OC(C)(C)C | C14H21NO3S
reactant | PhCONCO | 0.5 mmol, 0.06 mL, 1.2 equiv. | C1(=CC=CC=C1)C(=O)N=C=O | C8H5NO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | tert-Butyl 2-(3-benzoylureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.105 g, 59% yield | C(C1=CC=CC=C1)(=O)NC(NC1=C(C2=C(COC(C2)(C)C)S1)C(=O)OC(C)(C)C)=O | C22H26N2O5S
